US05750531
Synthesis of 5-methyl-6-ethyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After 4-fluoroaniline(0.50 ml, 5.28 mmol) was added to a mixture solution of 5-methyl-6-ethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine (0.80 g, 2.65 mmol) and dimethylformamide(5 ml), 0.55 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | 4-fluoroaniline | 5.28 mmol, 0.50 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 5-methyl-6-ethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine | 2.65 mmol, 0.80 g | CC=1C(=NC(=NC1CC)Cl)N1C(C2=CC=CC=C2CC1)C | C17H20ClN3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5-methyl-6-ethyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.55 g, Yield: 50.3% | Cl.CC=1C(=NC(=NC1CC)NC1=CC=C(C=C1)F)N1C(C2=CC=CC=C2CC1)C | InChI=1S/C23H25FN4.ClH/c1-4-21-15(2)22(27-23(26-21)25-19-11-9-18(24)10-12-19)28-14-13-17-7-5-6-8-20(17)16(28)3;/h5-12,16H,4,13-14H2,1-3H3,(H,25,26,27);1H
